US05965591
3-(2-Aminoethylthio)-5-fluoro-1,2-benzisoxazole hydrochloride
To a solution of 3-(2-(N-t-butoxycarbonylamino)ethylthio)-5-fluoro-1,2-benzisoxazole (0.20 g) in dioxane (2 ml) was added 4N-hydrochloric acid/dioxane solution (0.8 ml) with stirring at 5° C., and the mixture was then stirred at room temperature for 30 minutes. After completion of the reaction, the solvent was evaporated under reduced pressure and the residue was recrystallized from ethanol and ethyl acetate, to give the title compound (0.14 g) as a colorless needle.

reactant | 3-(2-(N-t-butoxycarbonylamino)ethylthio)-5-fluoro-1,2-benzisoxazole | 0.20 g | C(C)(C)(C)OC(=O)NCCSC1=NOC2=C1C=C(C=C2)F | C14H17FN2O3S
reactant | hydrochloric acid dioxane | 0.8 ml | Cl.O1CCOCC1
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 3-(2-Aminoethylthio)-5-fluoro-1,2-benzisoxazole hydrochloride | 0.14 g | Cl.NCCSC1=NOC2=C1C=C(C=C2)F | InChI=1S/C9H9FN2OS.ClH/c10-6-1-2-8-7(5-6)9(12-13-8)14-4-3-11;/h1-2,5H,3-4,11H2;1H
